US06054457
To a solution of 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-carboxymethoxy-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]-4-methylphenyl]benzamide (128 mg) in methanol (5 ml) was added dropwise trimethylsilyldiazomethane (5 ml, 2.0M n-hexane solution) and stirred at ambient temperature for 30 minutes. The solution was concentrated in vacuo and the residue was purified by preparative thin layer silica gel chromatography (chloroform:methanol:28% aqueous ammonia solution, 50:5:1) to give 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxycarbonylmethoxy-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]-4-methylphenyl]benzamide (85 mg).

reactant | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-carboxymethoxy-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]-4-methylphenyl]benzamide | 128 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OCC(=O)O)C=CC=C1 | C43H57N5O10
reactant | trimethylsilyldiazomethane | 2.0M, 5 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 5 ml | CO | CH4O
product | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxycarbonylmethoxy-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]-4-methylphenyl]benzamide | 85 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OCC(=O)OC)C=CC=C1 | C44H59N5O10
